US06599902B2
Synthesis of N-[2-(3-Acetylamino-pyrrolidin-1-yl)-ethyl]-2-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetamide
To a solution of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (260 mg, 0.5 mmol) in DMF (3 mL) was added HOBt (101 mg, 1.5 eq.), EDAC.HCl (144 mg, 3 eq.) and TEA (152 mg, 1.5 eq.). After stirring at rt for 30 mins, to the mixture was added N-[1-(2-amino-ethyl)-pyrrolidin-3-yl]-acetamide (128 mg, 1.5 eq.). After stirring at 40° C. for overnight, the cooled reaction was concentrated and the residue was purified on a silica gel column to give the title compound as a yellow solid.

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.5 mmol, 260 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | HOBt | 101 mg, 1.5 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 144 mg, 3 eq. | CCN=C=NCCCN(C)C.Cl
reactant | N-[1-(2-amino-ethyl)-pyrrolidin-3-yl]-acetamide | 128 mg, 1.5 eq. | NCCN1CC(CC1)NC(C)=O | C8H17N3O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-[2-(3-Acetylamino-pyrrolidin-1-yl)-ethyl]-2-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetamide | C(C)(=O)NC1CN(CC1)CCNC(CC1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)=O | C32H35Cl2N5O5S
